US05118681
A solution of 1.1 g (5.0 mol) of ethyl N-benzylmalonamide in 30 mL of toluene was heated to reflux under nitrogen and 1.29 g (10.0 mol) of n-octylamine was added. The reaction was heated to reflux for 5 h and 5 mL of N,N-dimethylformamide was added. This mixture was kept at reflux for 12 h and poured into 5% aqueous hydrochloric acid. the organic layer was washed with saturated aqueous sodium bicarbonate, water, brine, and dried over magnesium sulfate. Filtration and removal of solvents afforded a crude solid which was recrystallized from 50% ethyl acetate/hexane to give 0.8 g (53% yield) of N-n-octyl-N'-benzylmalonamide.

reactant | ethyl N-benzylmalonamide | 5.0 mol, 1.1 g | C(C)C(C(=O)NCC1=CC=CC=C1)C(=O)N | C12H16N2O2
reactant | n-octylamine | 10.0 mol, 1.29 g | C(CCCCCCC)N | C8H19N
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | N-n-octyl-N'-benzylmalonamide | 0.8 g, 53% yield | C(CCCCCCC)NC(CC(=O)NCC1=CC=CC=C1)=O | C18H28N2O2
